US03995039
4-Acetamido-8-(4-pyridyl)-pyrazolo[1,5-a][1,3,5]triazine
By replacing the pyrazolotriazine employed in Example 4 by an equivalent quantity of the end product of Example 2 or Example 3 there is obtained, respectively, 4-acetamido-8-(4-pyrimidinyl)-pyrazolo-[1,5-a][1,3,5]triazine and 4-acetamido-8-(2-pyrazinyl)-pyrazolo[1,5-a][1,3,5]triazine.

reactant | pyrazolotriazine | N1N=NC=C2C1=CN=N2 | C4H3N5
reactant | 4-acetamido-8-(4-pyrimidinyl)-pyrazolo-[1,5-a][1,3,5]triazine | C(C)(=O)NC1=NC=NC=2N1N=CC2C2=NC=NC=C2 | C11H9N7O
reactant | 4-acetamido-8-(2-pyrazinyl)-pyrazolo[1,5-a][1,3,5]triazine | C(C)(=O)NC1=NC=NC=2N1N=CC2C2=NC=CN=C2 | C11H9N7O
product | 4-Acetamido-8-(4-pyridyl)-pyrazolo[1,5-a][1,3,5]triazine | C(C)(=O)NC1=NC=NC=2N1N=CC2C2=CC=NC=C2 | C12H10N6O
